US08349824B2
A mixture of 1-methyl-5-(2-phenyl-[1,2,4]triazolo[1,5-a]pyridin-7-ylcarbamoyl)-1H-pyrazole-4-carboxylic acid (100 mg, 276 μmol), 3-methoxypropan-1-amine (169 μl, 1.66 mmol) and propylphosphonic anhydride (50% in ethyl acetate, 407 μl, 690 μmol) in tetrahydrofurane (7 ml) is refluxed for 18 hours. The solvent is evaporated and to the residue is added sat. aqueous sodium hydrogencarbonate solution. The mixture is stirred for 20 minutes while a white solid precipitates. The solid is collected by filtration, washed with diethylether and dried affording N4-(3-Methoxypropyl)-1-methyl-N5-(2-phenyl-[1,2,4]triazolo[1,5-a]pyridin-7-yl)-1H-pyrazole-4,5-dicarboxamide (113 mg, 94.3%) as a white solid. mp.: 191-3° C. MS: m/z=434.4 (M+H+).

reactant | 1-methyl-5-(2-phenyl-[1,2,4]triazolo[1,5-a]pyridin-7-ylcarbamoyl)-1H-pyrazole-4-carboxylic acid | 276 μmol, 100 mg | CN1N=CC(=C1C(NC1=CC=2N(C=C1)N=C(N2)C2=CC=CC=C2)=O)C(=O)O | C18H14N6O3
reactant | 3-methoxypropan-1-amine | 1.66 mmol, 169 μl | COCCCN | C4H11NO
reactant | propylphosphonic anhydride | 690 μmol, 407 μl | CCCP(=O)=O | C3H7O2P
solvent | tetrahydrofurane | 7 ml | O1CCCC1 | C4H8O
product | N4-(3-Methoxypropyl)-1-methyl-N5-(2-phenyl-[1,2,4]triazolo[1,5-a]pyridin-7-yl)-1H-pyrazole-4,5-dicarboxamide | 113 mg, 94.3% | COCCCNC(=O)C=1C=NN(C1C(=O)NC1=CC=2N(C=C1)N=C(N2)C2=CC=CC=C2)C | C22H23N7O3
